************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G5_XNOR3_N2
* View Name:     schematic
* Netlisted on:  Mar 28 15:29:27 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G5_XNOR3_N2
* View Name:    schematic
************************************************************************

.SUBCKT G5_XNOR3_N2 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI20 Z A BI A C / TIGFET_PCELL_SP15CP15_N2
XI19 Z AI B AI C / TIGFET_PCELL_SP15CP15_N2
XI16 CI Vdd C Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI13 CI Vss C Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI14 AI Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI17 Z AI BI AI CI / TIGFET_PCELL_SP15CP15_N2
XI12 BI Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI11 AI Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI15 BI Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI18 Z A B A CI / TIGFET_PCELL_SP15CP15_N2
.ENDS

